US07666878B2
87e) [2-Ethyl-1-(4-trifluoromethyl-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid
0.5 M Aqueous NaOH (1.0 ml) is added to a solution of [2-ethyl-1-(4-trifluoromethyl-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (48 mg, 0.13 mmol) in 1:1 THF/MeOH (1 ml). After 3 hours the reaction is concentrated in vacuo, and the residue dissolved in water. The aqueous solution is cooled in an ice-bath and acidified to pH 2 using concentrated HCl. The resulting precipitate is filtered and dried under high vacuum at 50° C. to yield the titled compound as a white powder. (MH+ 363)

reactant | NaOH | 0.5 M, 1.0 ml | [OH-].[Na+]
reactant | [2-ethyl-1-(4-trifluoromethyl-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 0.13 mmol, 48 mg | COC(CC1=C(N(C2=NC=CC=C21)CC2=CC=C(C=C2)C(F)(F)F)CC)=O | C20H19F3N2O2
solvent | THF MeOH | 1 ml | C1CCOC1.CO
product | [2-Ethyl-1-(4-trifluoromethyl-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | C(C)C1=C(C=2C(=NC=CC2)N1CC1=CC=C(C=C1)C(F)(F)F)CC(=O)O | C19H17F3N2O2
